US03954764
11 G. of 1-(10,11-dihydro-3-methoxy-8-methylthio-dibenzo[b,f]thiepin-10-yl)-piperazine are heated together with 15 g. of potassium carbonate, 0.5 g. of sodium iodide, 11 g. of N-(β-chloroethyl)-2-pyrrolidinone and 100 ml. of toluene under reflux conditions for 17 hours. Then, the mixture is evaporated under reduced pressure. The residue is partitioned between water and ether, and the ethereal phase dried over sodium sulfate and evaporated. The residue obtained is chromatographed with chloroform over aluminum oxide. The 1-{2-[4-(10,11-dihydro-3-methoxy-8-methylthio-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-pyrrolidinone thus obtained is converted into the corresponding dihydrochloride by reaction with hydrogen chloride. The resulting dihydrochloride melts at 202°C.

reactant | 1-(10,11-dihydro-3-methoxy-8-methylthio-dibenzo[b,f]thiepin-10-yl)-piperazine | COC=1C=CC2=C(SC3=C(C(C2)N2CCNCC2)C=C(C=C3)SC)C1 | C20H24N2OS2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
reactant | N-(β-chloroethyl)-2-pyrrolidinone | ClCCN1C(CCC1)=O | C6H10ClNO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-{2-[4-(10,11-dihydro-3-methoxy-8-methylthio-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-pyrrolidinone | COC=1C=CC2=C(SC3=C(C(C2)N2CCN(CC2)CCN2C(CCC2)=O)C=C(C=C3)SC)C1 | C26H33N3O2S2
